US09382188B2
step 3) 1-(2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)biphenyl-2-yl)-3,3-dimethylbutan-1-ol
To a mixture of magnesium (133 mg) and diethyl ether (10 mL) was added 1-bromo-2,2-dimethylpropane (0.68 mL), and the mixture was stirred at room temperature for 30 min. To the reaction mixture was added a solution of 2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)biphenyl-2-carbaldehyde (1.02 g) in diethyl ether (5 mL), and the mixture was stirred at room temperature for 2 hr. To the reaction mixture was added saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (674 mg) as a pale-yellow oil.

reactant | magnesium | 133 mg | [Mg] | Mg
reactant | 1-bromo-2,2-dimethylpropane | 0.68 mL | BrCC(C)(C)C | C5H11Br
reactant | 2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)biphenyl-2-carbaldehyde | 1.02 g | FC1=C(C=C(C=C1)OC)C=1C(=CC(=CC1)OCC1=CC=C(C=C1)OC)C=O | C22H19FO4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | 1-(2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)biphenyl-2-yl)-3,3-dimethylbutan-1-ol | 674 mg | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)OCC1=CC=C(C=C1)OC)C(CC(C)(C)C)O | C27H31FO4
